US09315491B2
[4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-carbamic acid phenyl ester
A mixture of 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (915 mg, 2.717 mmol.) in EA (20 ml) and NaHCO3 (20 ml) the reaction was stirred at r.t. then added dropwise to slurry of phenyl chloroformate (851 mg, 0.543 mmol, 2.0 eq) at reaction for 2 hr. The reaction mixture was partitioned between EA/NaHCO3, the organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The residue was recrystallized by (Hexane/EtOAc) to give a pale yellow product of 1056 mg (85.1%).

reactant | 4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 2.717 mmol, 915 mg | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)N | C15H17ClN4OS
reactant | phenyl chloroformate | 0.543 mmol, 851 mg, 2.0 eq | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | EA | 20 ml | CC(OCC)=O | C4H8O2
solvent | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
product | [4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)C1=NC(=C(C(=N1)Cl)SC)N1CCOCC1)=O | C22H21ClN4O3S
